US05557017
Into a 1 l four-necked flask equipped with a stirrer, a distillation apparatus-equipped reflux condenser, a dropping funnel and a thermometer, 400 cc of isopropyl alcohol (the water content in the isopropyl alcohol being not higher than 50 ppm, the same is true in the following Examples), and 84.2 g (0.75 mol) of potassium tertbutoxide were charged. The reactor was heated to bring the internal temperature to 60° C. Then, 223 g (0.5 mol) of C6F13I was dropwise added thereto over a period of two hours. After completion of the dropwise addition, heating and refluxing were continued for one hour. The conversion at that time was 100%. A fraction with a boiling point of up to 75° C. was recovered by distillation from the reactor and further washed five times with 200 g of water, to obtain 151 g of C6F13H having a purity of 99.8%. In the reactor, no formation of tar was observed.

reactant | potassium tertbutoxide | 0.75 mol, 84.2 g | CC(C)([O-])C.[K+]
reactant | C6F13I | 0.5 mol, 223 g | C(F)(F)(C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)F)I | C6F13I
product | C6F13H | 151 g | C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)F | C6HF13
